* C:\Users\pablo\OneDrive\Escritorio\Universidad\Analogica 1\Proyecto Uno\Proyecto Analogica\Filtros\A11_Notch_Pasivo.asc
R1 N001 Vin {R1}
C1 N001 0 {C1}
C2 Vin N002 {C2}
V1 Vcc 0 15
V2 0 -Vcc 15
R2 Vout N001 {R2}
C3 Vout N002 {C3}
R3 N002 0 {R3}
V4 Vin 0 PWL file=sig_in.csv AC 5
.tran 0 {transtop} 0 {timestep} startup
.include param.txt
.include trancmd.txt
* do not edit this by hand
.backanno
.end
